US04762829
N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-3-amino-1,2-propanediol
The same procedure as in Example 1 was repeated except that 6.1 g of 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid and 1.9 g of 3-amino-1,2-propanediol were used as the starting materials. 6.5 g (86%) of the title compound was obtained as a white wax.

reactant | 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid | 6.1 g | CC(=CC(=O)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H32O2
reactant | 3-amino-1,2-propanediol | 1.9 g | NCC(CO)O | C3H9NO2
product | N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-3-amino-1,2-propanediol | 6.5 g, 86% | CC(=CC(=O)NCC(CO)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C23H39NO3
